US09023865B2
(S)-2-((tert-butoxycarbonyl)amino)-2-phenylethyl methanesulfonate (600 mg, 1.902 mmol) and sodium thiomethoxide (593 mg, 7.61 mmol) were added to a 20 mL microwave tube equipped with mechanical stir bar and charged with Dioxane (10 ml). The reaction was allowed to heat overnight at 45° C. The reaction was poured into 5 mL MeOH and 5 g silica, and the solvents were evaporated in vacuo. The dry-loaded crude product was purified on 50 g SNAP column 10-50% EtOAc/hexanes to provide (S)-tert-butyl (2-(methylthio)-1-phenylethyl)carbamate (387 mg, 1.447 mmol, 76% yield).

reactant | (S)-2-((tert-butoxycarbonyl)amino)-2-phenylethyl methanesulfonate | 1.902 mmol, 600 mg | CS(=O)(=O)OC[C@H](C1=CC=CC=C1)NC(=O)OC(C)(C)C | C14H21NO5S
reactant | sodium thiomethoxide | 7.61 mmol, 593 mg | C[S-].[Na+]
reactant | Dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | 5 mL | CO | CH4O
product | (S)-tert-butyl (2-(methylthio)-1-phenylethyl)carbamate | 1.447 mmol, 387 mg, 76% yield | CSC[C@H](C1=CC=CC=C1)NC(OC(C)(C)C)=O | C14H21NO2S
